US07829717B2
3-[(Quinolin-4-ylmethyl)amino]-N-(4-chloro-3-{[2-(2-methoxyethylamino)-3,4-dioxocyclobut-1-en-1-yl]amino}phenyl)thiophene-2-carboxamide
EXAMPLE 47 was prepared according to the procedure described in EXAMPLE 3 using N-{3-[(2-methoxy-3,4-dioxocyclobut-1-en-1-yl)amino]-4-chlorophenyl}-3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide (prepared according to the procedure described in EXAMPLE 1 using 4-chloro-1,3-phenylenediamine instead of 1,3-phenylenediamine) and 2-methoxyethylamine instead of dimethylamine. MS (ES+): m/z 561.9 [M+1]

reactant | N-{3-[(2-methoxy-3,4-dioxocyclobut-1-en-1-yl)amino]-4-chlorophenyl}-3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide | COC1=C(C(C1=O)=O)NC=1C=C(C=CC1Cl)NC(=O)C=1SC=CC1NCC1=CC=NC2=CC=CC=C12 | C26H19ClN4O4S
reactant | 4-chloro-1,3-phenylenediamine | ClC1=C(C=C(C=C1)N)N | C6H7ClN2
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 3-[(Quinolin-4-ylmethyl)amino]-N-(4-chloro-3-{[2-(2-methoxyethylamino)-3,4-dioxocyclobut-1-en-1-yl]amino}phenyl)thiophene-2-carboxamide | N1=CC=C(C2=CC=CC=C12)CNC1=C(SC=C1)C(=O)NC1=CC(=C(C=C1)Cl)NC1=C(C(C1=O)=O)NCCOC | C28H24ClN5O4S
